US06747023B1
1-[[6-(1-Acetoxyethoxy)carbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine
In ethanol (6 ml) was dissolved 4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride (200 mg), followed by the addition of diisopropylethylamine (83 μl) and 1-acetoxyethyl p-nitrophenyl carbonate (128 mg). The resulting mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure. Methylene chloride and an aqueous solution of sodium bicarbonate were added and the mixture was separated into layers. The organic layer was dried over anhydrous sodium sulfate and the filtrate was concentrated. The residue was purified by chromatography on a silica gel column (1-2% methanol-methylene chloride). The product was dissolved in ethyl acetate, followed by crystallization from diethyl ether, whereby the title compound (100 mg) was obtained as colorless powder.

reactant | 4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | 200 mg | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNCCC2N1)CC(=O)N1CCOCC1
reactant | diisopropylethylamine | 83 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-acetoxyethyl p-nitrophenyl carbonate | 128 mg | C(OC(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-[[6-(1-Acetoxyethoxy)carbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | C(C)(=O)OC(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)CC(=O)N2CCOCC2 | C30H35ClN6O9S2
